US07851473B2
(3) tert-Butyl [1-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperidin-4-yl]carbamate
To a solution of tert-butyl [1-(5-chloro-1,2,4-thiadiazol-3-yl)piperidin-4-yl]carbamate (442 mg, 1.39 mmol) and N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate (500 mg, 1.39 mmol) in dimethylformamide (5 ml) was added triethylamine (0.969 ml, 6.95 mmol) at room temperature, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured to water, and a solid was separated by filtration, which was recrystallized from a mixed solvent of ethyl acetate and tetrahydrofuran to give 335 mg (45.6%) of the desired product as a solid.

reactant | tert-butyl [1-(5-chloro-1,2,4-thiadiazol-3-yl)piperidin-4-yl]carbamate | 1.39 mmol, 442 mg | ClC1=NC(=NS1)N1CCC(CC1)NC(OC(C)(C)C)=O | C12H19ClN4O2S
reactant | N-1,2-benzisoxazol-3-ylpiperazine-1-carboxamide trifluoroacetate | 1.39 mmol, 500 mg | FC(C(=O)O)(F)F.O1N=C(C2=C1C=CC=C2)NC(=O)N2CCNCC2
reactant | triethylamine | 6.95 mmol, 0.969 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | tert-Butyl [1-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperidin-4-yl]carbamate | 335 mg, 45.6% | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)N2CCC(CC2)NC(OC(C)(C)C)=O | C24H32N8O4S
